US08541588B2
2-Chloro-4-(5-chloro-2-methoxyphenyl)pyridine
A mixture of 4-chloro-2-iodo-1-methoxybenzene (542 mg, 2.02 mmol), (2-chloropyridin-4-yl)boronic acid (400 mg, 2 mmol), and sodium carbonate (860.2 mg, 8.116 mmol) in 1,4-dioxane (8.4 mL, 110 mmol) and water (2.8 mL, 160 mmol) was sparged 5 minutes with argon. Tetrakis(triphenylphosphine)palladium(0) (139.9 mg, 0.1210 mmol) was added and the reaction vial was capped. The reaction mixture was heated at 90° C. After 3 hours, the reaction mixture was cooled to ambient temperature and poured into water. The mixture was extracted with ethyl acetate (3×). The combined organic layers were washed with brine, dried over sodium sulfate, filtered and concentrated in vacuo. The residue was taken up in methylene chloride, concentrated onto diatomaceous earth, and purified by automated flash chromatography (24 g SiO2, hexanes to 3:1 hexanes-ethyl acetate) to afford the product as a light yellow powder.

reactant | 4-chloro-2-iodo-1-methoxybenzene | 2.02 mmol, 542 mg | ClC1=CC(=C(C=C1)OC)I | C7H6ClIO
reactant | (2-chloropyridin-4-yl)boronic acid | 2 mmol, 400 mg | ClC1=NC=CC(=C1)B(O)O | C5H5BClNO2
reactant | sodium carbonate | 8.116 mmol, 860.2 mg | C([O-])([O-])=O.[Na+].[Na+]
reactant | 1,4-dioxane | 110 mmol, 8.4 mL | O1CCOCC1 | C4H8O2
catalyst | Tetrakis(triphenylphosphine)palladium(0) | 0.1210 mmol, 139.9 mg | C=1C=CC(=CC1)[P](C=2C=CC=CC2)(C=3C=CC=CC3)[Pd]([P](C=4C=CC=CC4)(C=5C=CC=CC5)C=6C=CC=CC6)([P](C=7C=CC=CC7)(C=8C=CC=CC8)C=9C=CC=CC9)[P](C=1C=CC=CC1)(C=1C=CC=CC1)C=1C=CC=CC1
solvent | water | O | H2O
solvent | water | 160 mmol, 2.8 mL | O | H2O
product | 2-Chloro-4-(5-chloro-2-methoxyphenyl)pyridine | ClC1=NC=CC(=C1)C1=C(C=CC(=C1)Cl)OC | C12H9Cl2NO
